US09399640B2
Step 1. 4-[5-Bromo-2-(2,4-difluorophenoxy)-4-(methylamino)-3-nitrophenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one
A solution of 4-[2-(2,4-difluorophenoxy)-4-(methylamino)-3-nitrophenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one (0.433 g, 0.776 mmol) in N,N-dimethylformamide (5.0 mL) was cooled to 0° C. Two portions of N-bromosuccinimide (0.159 g, 0.893 mmol) were added with a 5 min interval to the above solution at 0° C., and the resultant reaction mixture was stirred at 0° C. for 30 min, after which time the reaction mixture was diluted with water and ethyl acetate. Layers were separated and the organic layer was washed with saturated sodium bicarbonate, dried with sodium sulfate, filtered, and concentrated to give a crude residue. Purification by flash column chromatography (100% hexanes to 50% EtOAc/hexanes [EtOAc contained 5% MeOH]) gave the desired product (444 mg, 90%) as a yellow solid. LCMS calculated for C26H29BrF2N5O5Si (M+H)+: m/z=636.1, 638.1. found: 636.0, 638.1.

reactant | 4-[2-(2,4-difluorophenoxy)-4-(methylamino)-3-nitrophenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | 0.776 mmol, 0.433 g | FC1=C(OC2=C(C=CC(=C2[N+](=O)[O-])NC)C=2C3=C(C(N(C2)C)=O)N(N=C3)COCC[Si](C)(C)C)C=CC(=C1)F | C26H29F2N5O5Si
reactant | N-bromosuccinimide | 0.893 mmol, 0.159 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[5-Bromo-2-(2,4-difluorophenoxy)-4-(methylamino)-3-nitrophenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | 444 mg, 90% | BrC=1C(=C(C(=C(C1)C=1C2=C(C(N(C1)C)=O)N(N=C2)COCC[Si](C)(C)C)OC2=C(C=C(C=C2)F)F)[N+](=O)[O-])NC | C26H28BrF2N5O5Si
